US09422244B2
157 mg (1 mol equiv.) N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboximidothioic acid methyl ester and 157 mg (1.05 mol equiv.) 4-acetamidobenzenesulfonamide were taken up in 5 mL acetonitrile. The reaction mixture was refluxed overnight under magnetic stirring and volatiles were removed in vacuo. The residue was taken up in ethyl acetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (ethyl acetate) afforded 236 mg (87%) of N-(4-{[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-acetamide. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7.2 Hz, 3H), 1.62-1.83 (m, 8H), 2.20 (s, 3H), 3.43-3.51 (m, 2H), 3.80 (s, 2H), 6.80 (s, 1H), 6.87 (br.s., 1H), 7.56 (d, J=8.8 Hz, 2H), 7.77 (br.s., 1H), 7.83 (d, J=8.8 Hz, 2H).

reactant | N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboximidothioic acid methyl ester | 1 mol, 157 mg | CSC(=NCC)N1CC2(C=N1)CCCC2 | C11H19N3S
reactant | 4-acetamidobenzenesulfonamide | 1.05 mol, 157 mg | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N | C8H10N2O3S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(4-{[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-acetamide | 236 mg, 87% | C1N(N=CC12CCCC2)C(NCC)=NS(=O)(=O)C2=CC=C(C=C2)NC(C)=O | C18H25N5O3S
